US09403810B2
Step 3: (9H-Fluoren-9-yl)methyl (2-isopropyl-5-methyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate
To a solution of methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-oxobutanoate (2.766 g, 7.83 mmol) in 1.25M HCl in ethanol (25 mL) was added isopropylhydrazine hydrochloride (1.298 g, 11.74 mmol). The reaction mixture was stirred at reflux. Upon completion the reaction mixture was cooled to room temperature and the solvent was removed under reduced pressure. The crude material was adsorbed onto silica and purification by chromatography using a gradient of 0-100% EtOAc in iso-hexane and 10% MeOH in EtOAc afforded crude material. The crude material was dissolved in IPA to which water was added to give a cloudy mixture that was sonicated and left to stand at room temperature. The resulting suspension was filtered and the solid dried under reduced pressure to afford the title compound;

reactant | methyl 2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-3-oxobutanoate | 7.83 mmol, 2.766 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)OC)C(C)=O | C20H19NO5
reactant | isopropylhydrazine hydrochloride | 11.74 mmol, 1.298 g | Cl.C(C)(C)NN
solvent | HCl | 1.25M | Cl | ClH
solvent | ethanol | 25 mL | C(C)O | C2H6O
solvent | IPA | CC(C)O | C3H8O
solvent | water | O | H2O
product | (9H-Fluoren-9-yl)methyl (2-isopropyl-5-methyl-3-oxo-2,3-dihydro-1H-pyrazol-4-yl)carbamate | C(C)(C)N1NC(=C(C1=O)NC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)C | C22H23N3O3
